US03944675
N-(4-Trifluoromethylphenyl)-1-adamantanecarboxamide
Subject 2.0 g. of adamantane carboxylic acid chloride 1.6 g. (10 mmoles) of p-trifluoromethylaniline and 5.0 ml. of triethylamine to the process of Example 11. Crystallize the residue obtained thereby from a mixture of methylene chloride-hexane to obtain the product of this Example, m.p. 189°-193°C.

reactant | adamantane carboxylic acid chloride | 1.6 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | p-trifluoromethylaniline | 10 mmoles | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride hexane | C(Cl)Cl.CCCCCC
product | N-(4-Trifluoromethylphenyl)-1-adamantanecarboxamide | FC(C1=CC=C(C=C1)NC(=O)C12CC3CC(CC(C1)C3)C2)(F)F | C18H20F3NO
